US09427475B2
Step D: {[(2S)-1,5-dioxo-1,5-bis({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentan-2-yl]amino}-6-oxohexanoic acid
A suspension of benzyl {[(2S)-1,5-dioxo-1,5-bis({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentan-2-yl]amino}-6-oxohexanoate (380 mg, 0.511 mmol) and Pearlman's catalyst (50 mg, 0.071 mmol) in methanol (30 mL) was agitated under 50 Psi of H2 at room temperature on a Parr shaker. After 16 hours, catalyst was filtered off and the filtrate was concentrated to give the title compound. 1H NMR (CD3OD) δ 4.76-4.75 (m, 2H), 4.32-4.29 (m, 1H), 3.96-3.91 (m, 2H), 3.76-3.66 (m, 5H), 3.55-3.27 (m, 9H), 2.34-2.27 (m, 6H), 2.09-2.04 (m, 1H), 1.99-1.88 (m, 1H), 1.67-1.61 (m, 4H), 1.20 (d, J=6.7, 6H).

reactant | benzyl {[(2S)-1,5-dioxo-1,5-bis({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentan-2-yl]amino}-6-oxohexanoate | 0.511 mmol, 380 mg | O=C([C@H](CCC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)NC(C(=O)OCC1=CC=CC=C1)CCCC=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C34H53N3O15
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
catalyst | Pearlman's catalyst | 0.071 mmol, 50 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 30 mL | CO | CH4O
product | {[(2S)-1,5-dioxo-1,5-bis({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentan-2-yl]amino}-6-oxohexanoic acid | O=C([C@H](CCC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)NC(C(=O)O)CCCC=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C27H47N3O15
